US05693636
7-[[[4-(aminoiminomethyl)phenyl]carbonyl]-amino]-2-methyl-3-oxo-4-(2-phenylethyl)-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine;
7-[[[4-(aminoiminomethyl)phenyl]carbonyl]-amino]-2-methyl-3-oxo-4-(2-phenylethyl)-4,5-dihydro-3H-1,4-benzodiazepine, trifluoroacetate;

reactant | 7-[[[4-(aminoiminomethyl)phenyl]carbonyl]-amino]-2-methyl-3-oxo-4-(2-phenylethyl)-4,5-dihydro-3H-1,4-benzodiazepine | NN=CC1=CC=C(C=C1)C(=O)NC=1C=CC2=C(CN(C(C(=N2)C)=O)CCC2=CC=CC=C2)C1 | C26H25N5O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 7-[[[4-(aminoiminomethyl)phenyl]carbonyl]-amino]-2-methyl-3-oxo-4-(2-phenylethyl)-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine | NN=CC1=CC=C(C=C1)C(=O)NC=1C=CC2=C(CN(C(C(N2)C)=O)CCC2=CC=CC=C2)C1 | C26H27N5O2
